### PR TITLE
[Merged by Bors] - feat(SimpleGraph/Acyclic): a graph is acyclic iff it is free of cycle graphs

### PR DESCRIPTION
**Pull request by SnirBroshi**
- `G.IsAcyclic ↔ ∀ n ≥ 3, (cycleGraph n).Free G`
- `G.IsAcyclic → 3 ≤ n → G.CliqueFree n`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -649,4 +650,14 @@ lemma isAcyclic_iff_pairwise_not_isEdgeReachable_two :
     rintro ⟨u, v⟩ huv
     exact (isBridge_iff_not_isEdgeReachable_two huv).mpr (h huv.ne)
 
+theorem isAcyclic_iff_free_cycleGraph : G.IsAcyclic ↔ ∀ n ≥ 3, (cycleGraph n).Free G := by
+  refine ⟨fun h n hn hle ↦ ?_, fun h v p hcyc ↦ h p.length hcyc.three_le_length ?_⟩
+  · have ⟨v, p, hcyc, hlen⟩ := cycleGraph_isContained_iff hn |>.mp hle
+    exact h p hcyc
+  · exact cycleGraph_isContained_iff hcyc.three_le_length |>.mpr ⟨v, p, hcyc, rfl⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean:657]: Is it any nicer to `simp_rw [cycleGraph_isContained_iff]` first?

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean:657]: I couldn't find a way to use it on both sides at once, and since it has a side condition of `n ≥ 3` `simp_rw` refuses to apply it even on the RHS

**Comment by SnirBroshi** [comment]
Thanks!
bors merge
